US06787543B2
To a suspension of 2-[2-benzhydryl-4-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-1-piperazinyl]acetic acid (70 mg) and triethylamine (20 mg) in dichloromethane (5 ml) was added 2-chloro-1-methylpyridinium iodide (70 mg) at room temperature. After being stirred for 30 minutes, 28% aqueous ammonia (1 drop) was added to the solution. After being stirred for 1.5 hours, the mixture was washed with water. The organic layer was separated, dried over magnesium sulfate, and evaporated under reduced pressure. The syrup was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (20:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give a syrup. The syrup was treated with 4N hydrogen chloride in ethyl acetate (1 ml) to give 2-[2-benzhydryl-4-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-1-piperazinyl]acetamide dihydrochloride (81 mg).

reactant | 2-[2-benzhydryl-4-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-1-piperazinyl]acetic acid | 70 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1N(CCN(C1)CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC)CC(=O)O | C29H29F3N6O3
reactant | triethylamine | 20 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 70 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | ammonia | 1 drop | N | H3N
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-benzhydryl-4-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-1-piperazinyl]acetamide dihydrochloride | 81 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)C1N(CCN(C1)CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC)CC(=O)N | InChI=1S/C29H30F3N7O2.2ClH/c1-41-25-13-12-23(39-28(29(30,31)32)34-35-36-39)16-22(25)17-37-14-15-38(19-26(33)40)24(18-37)27(20-8-4-2-5-9-20)21-10-6-3-7-11-21;;/h2-13,16,24,27H,14-15,17-19H2,1H3,(H2,33,40);2*1H
